US06365747B1
4,4-Dimethyl-2-(1-oxo-1,3-dihydroisobenzofuran-5-yl)oxazoline (one-pot method)
Acetone (40 ml) is stirred and 5-carboxyphthalide (2 g ,0.01 1 mol) are added at about 20° C. The mixture is cooled to −10° C. and ethyl chloroformate (1.18 ml, 0.012 mol) is added. At the end of the addition, a solution of triethylamine (1.56 ml ,0.011 mol) in acetone (3.50 ml) is added keeping the temperature of the mixture at or below −10° C. The temperature of the mixture is allowed to rise to 10-13° C. and, after 30 minutes, it is brought to −10° C. and a solution of 2-amino-2-methyl-1-propanol (3.0 g ,0.034 mol) in acetone (5 ml) is quickly added to the mixture. The temperature is allowed to rise to 15-20° C., whereby the reaction is completed as it may be verified by HPLC. To the mixture thus obtained, cooled to −5° C., thionyl chloride (2.5 ml, 0.034 mol) is added, the temperature is allowed to rise to about 20° C. and after 30 minutes the ring closure is completed. The reaction mixture is concentrated in vacuo leaving a residue, which is treated with water (20 ml). The mixture is concentrated again and a further amount of water (10 ml) is added to the residue, the pH is made basic by addition of 25% ammonia and the mixture is cooled to 5° C. The product is filtered off, washed with water and dried in vacuo. Yield: 1.70 g. Total yield: 66.8%.

reactant | 5-carboxyphthalide | 1 mol, 2 g | C(=O)(O)C=1C=C2COC(=O)C2=CC1 | C9H6O4
reactant | ethyl chloroformate | 0.012 mol, 1.18 ml | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 0.011 mol, 1.56 ml | C(C)N(CC)CC | C6H15N
reactant | 2-amino-2-methyl-1-propanol | 0.034 mol, 3.0 g | NC(CO)(C)C | C4H11NO
reactant | thionyl chloride | 0.034 mol, 2.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | acetone | 3.50 ml | CC(=O)C | C3H6O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | Acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
product | 4,4-Dimethyl-2-(1-oxo-1,3-dihydroisobenzofuran-5-yl)oxazoline | yield: 66.8% | CC1(N=C(OC1)C=1C=C2COC(C2=CC1)=O)C | C13H13NO3
